US08106215B2
5-(4-Fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid methyl ester
prepared by reaction of 3-chloro-3-(4-fluoro-phenyl)-2-oxo-propionic acid methyl ester with thioacetamide. 1H-NMR (CDCl3): δ=2.75 (s, 3H); 3.84 (s, 3H); 7.10 (m, 2H); 7.47 (m, 2H).

reactant | 3-chloro-3-(4-fluoro-phenyl)-2-oxo-propionic acid methyl ester | COC(C(C(C1=CC=C(C=C1)F)Cl)=O)=O | C10H8ClFO3
reactant | thioacetamide | C(C)(=S)N | C2H5NS
product | 5-(4-Fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid methyl ester | COC(=O)C=1N=C(SC1C1=CC=C(C=C1)F)C | C12H10FNO2S
